US09216173B2
To a solution of tert-butyl [(1S,2R)-2-({6-cyano-5-[(5-cyano-6-methylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate (58 mg, 0.13 mmol) in dichloromethane (1.3 mL) was added trifluoroacetic acid (1.0 mL, 13 mmol) at room temperature. After 16 hours, the reaction mixture was concentrated under reduced pressure to afford 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(5-cyano-6-methylpyridin-2-yl)amino]pyridine-2-carbonitrile. The material was used in the next step without further purification. MS ESI calc'd for C19H22N7 [M+H]+ 348. found 348.

reactant | tert-butyl [(1S,2R)-2-({6-cyano-5-[(5-cyano-6-methylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate | 0.13 mmol, 58 mg | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=C(C=C1)C#N)C | C24H29N7O2
reactant | trifluoroacetic acid | 13 mmol, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.3 mL | ClCCl | CH2Cl2
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(5-cyano-6-methylpyridin-2-yl)amino]pyridine-2-carbonitrile | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=NC(=C(C=C1)C#N)C | C19H21N7
